US07622583B2
4-Chloro-N-(5-chloro-2-phenoxy-pyridin-3-yl)-3-trifluoromethyl-benzene sulfonamide
To a solution of 5-chloro-2-phenoxy-pyridin-3-ylamine (60 mg, 0.27 mmol) in anhydrous pyridine (0.5 mL) was added drop wise a solution of 4-chloro-3-trifluoromethyl-benzenesulfonyl chloride (76 mg, 0.27 mmol) in pyridine (0.5 mL). The resulting mixture was stirred at room temperature for 5 h. The reaction mixture was separated by preparative HPLC using acetonitrile-water solvent mixture and pure product fractions were lyophilized to provide pure product as a solid. 1H NMR (400 MHz, CDCl3) δ 8.14 (s, 1 H), 7.89-7.87 (m, 2 H), 7.81 (m, 1 H), 7.59 (d, J=8.0 Hz, 1 H), 7.35 (t, J=8.4 Hz, 1 H), 7.25-7.19(m, 2 H), 6.76 (d, J=8.0 Hz, 2 H). MS m/z: 463.0 (M+H).

reactant | 5-chloro-2-phenoxy-pyridin-3-ylamine | 0.27 mmol, 60 mg | ClC=1C=C(C(=NC1)OC1=CC=CC=C1)N | C11H9ClN2O
reactant | 4-chloro-3-trifluoromethyl-benzenesulfonyl chloride | 0.27 mmol, 76 mg | ClC1=C(C=C(C=C1)S(=O)(=O)Cl)C(F)(F)F | C7H3Cl2F3O2S
solvent | pyridine | 0.5 mL | N1=CC=CC=C1 | C5H5N
solvent | pyridine | 0.5 mL | N1=CC=CC=C1 | C5H5N
product | 4-Chloro-N-(5-chloro-2-phenoxy-pyridin-3-yl)-3-trifluoromethyl-benzene sulfonamide | ClC1=C(C=C(C=C1)S(=O)(=O)NC=1C(=NC=C(C1)Cl)OC1=CC=CC=C1)C(F)(F)F | C18H11Cl2F3N2O3S
